US05187156
Boc-Glu(OTce)-OBzl (0.50 g) was hydrogenated in ethanol (25 ml) with 10% palladium on carbon (0.10 g). The catalyst was filtered off and the filtrate was evaporated. The residue was extracted with ethyl acetate. The organic layer was washed successively with 2% hydrochloric acid, water and saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue was pulverized with petroleum ether, filtered and dried to give Boc-Glu(OTce)-OH (0.30 g).

reactant | Boc-Glu(OTce)-OBzl | 0.50 g | N([C@@H](CCC(OCC(Cl)(Cl)Cl)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H24Cl3NO6
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
product | Boc-Glu(OTce)-OH | 0.30 g | N([C@@H](CCC(OCC(Cl)(Cl)Cl)=O)C(=O)O)C(=O)OC(C)(C)C | C12H18Cl3NO6
